US07863271B2
To a solution of tert-butyl 6-chloro-4-(quinuclidine-8-yl-carbamoyl)benzoxazole-2-yl-carbamate (71 mg, 0.17 mmol) in CH2Cl2 (1 mL) was added TFA (1 mL). The reaction mixture stirred at room temperature for 3 h. The reaction mixture was concentrated under reduced pressure and the crude material was treated with concentrated ammonium hydroxide to adjust the pH to 7. The mixture was concentrated under reduced pressure and the crude material was purified by preparative TLC (90:9:1 CH2Cl2/CH3OH/concentrated NH4OH) to afford (S)—N-(quinuclidine-8-yl)-2-amino-6-chlorobenzoxazole-4-carboxamide (21 mg, 38%) as a white solid, which was converted to the hydrochloride salt following general procedure GP-D1. 1H NMR and MS consistent.

reactant | tert-butyl 6-chloro-4-(quinuclidine-8-yl-carbamoyl)benzoxazole-2-yl-carbamate | 0.17 mmol, 71 mg | ClC1=CC2=C(N=C(O2)NC(OC(C)(C)C)=O)C(=C1)C(NC1CN2CCC1CC2)=O | C20H25ClN4O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (S)—N-(quinuclidine-8-yl)-2-amino-6-chlorobenzoxazole-4-carboxamide | 21 mg, 38% | N12CCC(CC1)[C@@H](C2)NC(=O)C=2C=C(C=C1C2N=C(O1)N)Cl | C15H17ClN4O2
